US04307104
2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-3-nitro-1,4,5,6-tetrahydropyridine
A solution of 2-(2-guanidino-4-thiazolylmethylthio)ethylamine (0.8 g, 3.5 mmol) and 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine (0.5 g, 2.9 mmol) in ethanol (50 ml) was refluxed for 3 hours then left to stand at room temperature overnight. The solvent was removed in vacuo and the residue chromatographed on a silica-gel column. The product was eluted with ethyl acetate/propan-2-ol (8:2) and recrystallised twice from methanol/ether. Yield: 0.16 g, 15%. M.P. 211°-212.5° C.

reactant | 2-(2-guanidino-4-thiazolylmethylthio)ethylamine | 3.5 mmol, 0.8 g | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 2-methylthio-3-nitro-1,4,5,6-tetrahydropyridine | 2.9 mmol, 0.5 g | CSC=1NCCCC1[N+](=O)[O-] | C6H10N2O2S
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-3-nitro-1,4,5,6-tetrahydropyridine | N(C(=N)N)C=1SC=C(N1)CSCCNC=1NCCCC1[N+](=O)[O-] | C12H19N7O2S2
